US06437147B1
4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(3-chlorophenoxy)propyl]amide, hydrochloride
By a similar procedure as described in Example 65, the title compound was prepared from 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid and 3-(3-chlorophenoxy)propylamine.

reactant | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid | N1=CNC2=C1CCC(C2)C(=O)O | C8H10N2O2
reactant | 3-(3-chlorophenoxy)propylamine | ClC=1C=C(OCCCN)C=CC1 | C9H12ClNO
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(3-chlorophenoxy)propyl]amide, hydrochloride | Cl.ClC=1C=C(OCCCNC(=O)C2CC3=C(NC=N3)CC2)C=CC1 | InChI=1S/C17H20ClN3O2.ClH/c18-13-3-1-4-14(10-13)23-8-2-7-19-17(22)12-5-6-15-16(9-12)21-11-20-15;/h1,3-4,10-12H,2,5-9H2,(H,19,22)(H,20,21);1H
